US04288602
Herein is described a process for oxidizing 1,2-diphenyl-4-[2-(phenylthio)ethyl]-3,5-pyrazolidinedione with peroxymonosulfuric acid to obtain 1,2-diphenyl-4-[2-(phenylsulfinyl)ethyl]-3,5-pyrazolidinedione.

reactant | 1,2-diphenyl-4-[2-(phenylthio)ethyl]-3,5-pyrazolidinedione | C1(=CC=CC=C1)N1N(C(C(C1=O)CCSC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20N2O2S
reactant | peroxymonosulfuric acid | S(=O)(=O)(OO)O | H2O5S
product | 1,2-diphenyl-4-[2-(phenylsulfinyl)ethyl]-3,5-pyrazolidinedione | C1(=CC=CC=C1)N1N(C(C(C1=O)CCS(=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20N2O3S
